US05840753
To a solution of 32.8 g (0.0775 mole) of (Z)-3-ethoxycarbonyl-4-(4-chlorophenyl)-4-(4-methanesulfonylphenyl)but-3-enoic acid, prepared in example 3, in 90 ml of anhydrous tetrahydrofuran are added dropwise 15.5 ml (0.155 mole) of borane/dimethyl sulfide complex. The mixture is stirred at room temperature for 8 hours and 23.5 ml of methanol are added dropwise. The mixture is evaporated to dryness in vacuo and the residue is dissolved in ethyl acetate. After washing with potassium carbonate solution, the organic phase is separated, dried over magnesium sulfate and evaporated in vacuo to give 30.8 g of ethyl (Z)-3-(4-chlorophenyl)-3-(4-methanesulfonylphenyl)-2-(2-hydroxyethyl)prop-2-enoate as crystals with a melting point of 128° C. after recrystallization from isopropanol.

reactant | (Z)-3-ethoxycarbonyl-4-(4-chlorophenyl)-4-(4-methanesulfonylphenyl)but-3-enoic acid | 0.0775 mole, 32.8 g | C(C)OC(=O)\C(\CC(=O)O)=C(\C1=CC=C(C=C1)S(=O)(=O)C)/C1=CC=C(C=C1)Cl | C20H19ClO6S
reactant | methanol | 23.5 ml | CO | CH4O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | ethyl (Z)-3-(4-chlorophenyl)-3-(4-methanesulfonylphenyl)-2-(2-hydroxyethyl)prop-2-enoate | 30.8 g | ClC1=CC=C(C=C1)\C(=C(/C(=O)OCC)\CCO)\C1=CC=C(C=C1)S(=O)(=O)C | C20H21ClO5S
